US06660753B2
Trifluoromethanesulfonic anhydride (22.9 μL, 0.14 mmol) and triethylamine (23.7 μL, 0.17) were added under argon to a vial containing 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole (30 mg, 0.11 mmol) in dichloromethane (1 mL). The vial was then sealed and the reaction was left stirring overnight at ambient temperature. The reaction mixture was placed directly onto a flash column and purified by eluting with hexanes:ethyl acetate:dichloromethane 3.5:0.5:4 to afford 11 mg (25%) of 3-(2-pyridyl)-5-(3-cyano-5-(trifluoromethylsulfonyloxy)phenyl) -1,2,4-oxadiazole: 1H NMR (CDCl3), δ (ppm): 8.88 (d, 1H), 8.63 (s, 1H), 8.44 (s, 1H), 8.24 (d, 1H), 7.93 (t, 1H), 7.83 (s, 1H), 7.52 (m, 1H).

reactant | Trifluoromethanesulfonic anhydride | 0.14 mmol, 22.9 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | triethylamine | 23.7 μL | C(C)N(CC)CC | C6H15N
reactant | 3-(2-pyridyl)-5-(3-cyano-5-hydroxyphenyl)-1,2,4-oxadiazole | 0.11 mmol, 30 mg | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)O)C#N | C14H8N4O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-(2-pyridyl)-5-(3-cyano-5-(trifluoromethylsulfonyloxy)phenyl) -1,2,4-oxadiazole | 11 mg, 25% | N1=C(C=CC=C1)C1=NOC(=N1)C1=CC(=CC(=C1)OS(=O)(=O)C(F)(F)F)C#N | C15H7F3N4O4S
